US07282588B2
b). {3-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanol
In a large pressure bottle (˜1 L) was added {3-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanol (22.75 g, 51.3 mMol), 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (21.0 g of a ˜85% pure lot, 52.0 mMol, Intermediate 5), dioxane (400 mL), aq. sat. NaHCO3 (120 mL), and Pd(PPh3)4 (1.5 g, 1.3 mMol). The reaction was purged with N2, capped, and stirred at 110° C. for 16 h. After cooling to RT the reaction was concentrated under vacuum, taken up in EtOAc, washed with H2O, brine, dried (Mg2SO4), filtered, and evaporated to dryness under vacuum. Purification by flash chromatography by silica gel (20 to 30% EtOAc/CH2Cl2) gave the title compound (26.90 g, 90%) as a yellow solid: MS (ES) m/e 580.4 (M+H)+; 1H NMR (400 MHz, DMSO-d6)8.34 (s, 1H), 8.32 (d, J=5.1 Hz, 1H), 8.15 (app. d, 2H), 7.89 (d, J=7.3 Hz, 2H), 7.74 (t, J=7.5 Hz, 1H), 7.61 (app. t, J=7.8 Hz, 2H), 7.54 (app. d, 2H), 7.39-7.43 (m, 2H), 7.32-7.36 (m, 2H), 7.06 (d, J=5.1 Hz, 1H), 6.52 (s, 1H), 5.31 (t, J=5.6 Hz, 1H), 4.57 (d, J=5.3 Hz, 2H), 4.26 (q, J=7.2 Hz, 2H), 1.47 (t, J=7.3 Hz, 3H).

reactant | {3-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanol | 51.3 mMol, 22.75 g | BrC1=C2C(=NC=C1)N(C(=C2)C=2C=C(C=CC2)CO)S(=O)(=O)C2=CC=CC=C2 | C20H15BrN2O3S
reactant | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
reactant | NaHCO3 | 120 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)4 | 1.3 mMol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | {3-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanol | 26.90 g, 90% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2C=C(C=CC2)CO)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C31H25N5O5S
